US07572820B2
4-Chloro-2-(difluoromethyl)-1-{2-[(6-fluoro-3-pyridinyl)oxy]ethyl}-1H-indole-5-carbonitrile
Synthesized as described in Example 39 from 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile and 5-[(2-bromoethyl)oxy]-2-fluoropyridine: MS (ESI) m/z 366 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 5-[(2-bromoethyl)oxy]-2-fluoropyridine | BrCCOC=1C=CC(=NC1)F | C7H7BrFNO
product | 4-Chloro-2-(difluoromethyl)-1-{2-[(6-fluoro-3-pyridinyl)oxy]ethyl}-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CCOC=1C=NC(=CC1)F)C(F)F | C17H11ClF3N3O
